US07247638B2
1.2 8-Phenyl-2-(4-pyridinyl)-6,7,8,9-tetrahydro-4H-pyrimido[1.2-a]pyrimidin-4-one
A suspension containing 4 g (16.12 mmoles) of 6-phenyl-1,4,5,6-tetrahydro-2-pyrimidinamine hydrochloride (1:2), 3.11 g (16.12 mmoles) of ethyl 3-(pyridin-4-yl)-3-oxopropionate, 6.68 g (48.36 mmoles) of anhydrous potassium carbonate in 50 ml of ethanol were refluxed for 18 h. The cooled solution was evaporated and the residue was treated with water and allowed to stir at 0° C. during 2 h. The precipitate which formed was recovered by filtration and dried at 90° C. during 18 h. 4.80 g (98%) of product was thus obtained.

reactant | 6-phenyl-1,4,5,6-tetrahydro-2-pyrimidinamine hydrochloride | 16.12 mmoles, 4 g | Cl.C1(=CC=CC=C1)C1CCN=C(N1)N
reactant | ethyl 3-(pyridin-4-yl)-3-oxopropionate | 16.12 mmoles, 3.11 g | N1=CC=C(C=C1)C(CC(=O)OCC)=O | C10H11NO3
reactant | potassium carbonate | 48.36 mmoles, 6.68 g | C([O-])([O-])=O.[K+].[K+]
solvent | ethanol | 50 ml | C(C)O | C2H6O
product | 8-Phenyl-2-(4-pyridinyl)-6,7,8,9-tetrahydro-4H-pyrimido[1.2-a]pyrimidin-4-one | 4.80 g, 98% | C1(=CC=CC=C1)C1NC=2N(C(C=C(N2)C2=CC=NC=C2)=O)CC1 | C18H16N4O
